US07157487B2
Methyl (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate (1.14 g, 3.21 mmol) was dissolved in THF (33 ml). To the resulting solution was added 0.25N NaOH (19.3 ml, 4.82 mmol), and the mixture was stirred at room temperature for 14 hours. The reaction mixture was poured into 1N HCl (5.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetic acid (1.07 g, 98%) as a brown solid.

reactant | Methyl (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetate | 3.21 mmol, 1.14 g | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=CC=C12)CC(=O)OC | C19H15ClN2O3
reactant | NaOH | 4.82 mmol, 0.25N, 19.3 ml | [OH-].[Na+]
reactant | HCl | 1N, 5.0 ml | Cl | ClH
solvent | THF | 33 ml | C1CCOC1 | C4H8O
product | (3-chloro-4-((1-isoquinolinylcarbonyl)amino)phenyl)acetic acid | 1.07 g, 98% | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=CC=C12)CC(=O)O | C18H13ClN2O3
